*****************************************************************
* NXP PSMN3R0-30YLD
*
* Polarity N-Channel
* Ratings 30V/3.100000E-003OHMS/100A
*
* Date Created Mon Jan 20 01:46:47 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R0-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 0.981801357717194
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 0.791681348704628
RLS1 8 7 0.00024

RDS 7 4 24000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00195672639598676 TC=0.00496656396488427,3.50934334150982E-06
RBD 9 4 0.0012047066873242 TC=0.00496656396488427,3.50934334150982E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.635e-09
RG 1 2 0.56828

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1467.97
+ -1	975.996
+ -0.5	756.59
+ -0.2	647.382
+ -0.1	644.8
+ 0	577.38828
+ 0.1	496.56848
+ 0.2	496.01348
+ 0.5	429.76436
+ 1	361.78884
+ 2	289.61156
+ 3	248.43228
+ 4	218.42532
+ 5	194.69236
+ 6	177.4212
+ 8	157.823
+ 10	148.78592
+ 12	144.06448
+ 15	140.05292



.MODEL MINT NMOS(Vto=2.27 Kp=4.7e+002 Nfs=410000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.08694290143443e-12
+ N=1 M=0.36 VJ=0.62 Fc=0.5 Cjo=2.78282904e-09 Tt=1.4088e-08)

.ENDS

